US07652147B2
Preparation of 1-Valeramidocyclopentanecarboxylic acid
In a 3 necked 250 ml round bottom flask equipped with mechanical stirrer, was charged with sodium hydroxide solution (24.1 g dissolved in 100 ml water) and 1-aminocyclopentane carboxylic acid hydrochloride (25 g) and chilled to 0° C. under stirring. Tetra butyl ammonium bromide (0.25 g) was added to the reaction mixture followed by slow addition of a solution of valeroyl chloride (27.5 g) in toluene (20 ml) during one hour at 0-5° C. under stirring. The reaction mass was stirred for 1 hour at 0-5° C. The reaction mixture was diluted with water (100 ml) toluene (20 ml) and stirred for 15 minutes. The two phases were separated. The aqueous phase was washed with toluene (20 ml). Aqueous phase was chilled to 10° C. and acidified with hydrochloric acid and stirred it for 1 hour. The product was filtered and washed with water. The product was dried at 60° C. till constant weight. (Yield: 22 g; 68%).

reactant | sodium hydroxide | 100 ml, 24.1 g | [OH-].[Na+]
reactant | 1-aminocyclopentane carboxylic acid hydrochloride | 25 g | Cl.NC1(CCCC1)C(=O)O
reactant | valeroyl chloride | 27.5 g | C(CCCC)(=O)Cl | C5H9ClO
catalyst | Tetra butyl ammonium bromide | 0.25 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | 1-Valeramidocyclopentanecarboxylic acid | C(CCCC)(=O)NC1(CCCC1)C(=O)O | C11H19NO3
